US04898455
A suspension of 29.0 g of methoxymethyl-triphenylphosphonium chloride in 200 ml of t-butyl methyl ether in a sulphonation flask fitted with a mechanical stirrer is treated while gassing with argon at -10° C. within 3 minutes with 9.7 g of potassium t-butylate. The orange suspension is stirred at about 0° C. for a further 1 hour, then treated dropwise at -10° C. within 10 minutes with a solution of 14.76 g of 2-(p-bromophenyl)-5-pyridinecarboxaldehyde in 90 ml of t-butyl methyl ether and stirred at 0° C. for a further 45 minutes. The reaction mixture is subsequently partitioned three times in diethyl ether/water. The organic extracts are washed twice with water, dried over magnesium sulphate, filtered and evaporated. In order to separate triphenylphosphine oxide, the residue is dissolved in ethyl acetate and the solution is diluted with petroleum ether, filtered and evaporated. Purification of the residue by chromatography on silica gel gives 2-(p-bromophenyl)-5-(2-methoxyvinyl)pyridine.

reactant | methoxymethyl-triphenylphosphonium chloride | 29.0 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 2-(p-bromophenyl)-5-pyridinecarboxaldehyde | 14.76 g | BrC1=CC=C(C=C1)C1=NC=C(C=C1)C=O | C12H8BrNO
solvent | t-butyl methyl ether | 200 ml | COC(C)(C)C | C5H12O
solvent | t-butyl methyl ether | 90 ml | COC(C)(C)C | C5H12O
product | 2-(p-bromophenyl)-5-(2-methoxyvinyl)pyridine | BrC1=CC=C(C=C1)C1=NC=C(C=C1)C=COC | C14H12BrNO
